US04429152
16 g of 3-(3-cyano-2,4,6-trichlorophenyl)propionic acid is dissolved in a solution of 5 g of solution of caustic soda in 80 ml of water. The mixture is maintained at 60° C. for 3 hours, filtered over active carbon, and the filtrate is brought to pH 1 under cooling by the addition of concentrated hydrochloric acid under agitation. After several hours of stirring, the precipitate is vacuum-filtered, washed with water, and dried at 50° C. Recrystallization from five times the amount of toluene yields 15.5 g (90% of theory) of 3-(3-carbamoyl-2,4,6-trichlorphenyl)propionic acid as a white powder, mp 196°-198° C.

reactant | 3-(3-cyano-2,4,6-trichlorophenyl)propionic acid | 16 g | C(#N)C=1C(=C(C(=CC1Cl)Cl)CCC(=O)O)Cl | C10H6Cl3NO2
reactant | caustic soda | [OH-].[Na+]
solvent | water | 80 ml | O | H2O
product | 3-(3-carbamoyl-2,4,6-trichlorphenyl)propionic acid | 15.5 g, 90% | C(N)(=O)C=1C(=C(C(=CC1Cl)Cl)CCC(=O)O)Cl | C10H8Cl3NO3
